US07598391B2
1,1-Dicyclohexyl-3-[5-(2-diethylamino-ethylsulfanyl)-thiazol-2-yl]-urea
Prepared as described in general procedure (H) using 1,1-dicyclohexyl-3-(5-thiocyanato-thiazol-2-yl)-urea, dithioerythritol and 2-diethylamino-ethanethiol

reactant | 1,1-dicyclohexyl-3-(5-thiocyanato-thiazol-2-yl)-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SC#N)C1CCCCC1 | C17H24N4OS2
reactant | dithioerythritol | SC[C@H](O)[C@H](O)CS | C4H10O2S2
reactant | 2-diethylamino-ethanethiol | C(C)N(CCS)CC | C6H15NS
product | 1,1-Dicyclohexyl-3-[5-(2-diethylamino-ethylsulfanyl)-thiazol-2-yl]-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SCCN(CC)CC)C1CCCCC1 | C22H38N4OS2
